US08071591B2
A mixture of trans-N-[3-(3-pyridyl)cyclohexyl]phthalimide (3.00 g, 9.79 mmol) and hydrazinemonohydorate (0.95 mL, 19.6 mmol) in EtOH (40 mL) was stirred at room temperature for 1.5 h. The reaction mixture was filtered followed by the removal of solvent. The crude product was purified by column chromatography (NH, EtOAc) to yield trans-3-(3-pyridyl)cyclohexylamine (1.08 g, 60%) as colorless oil.

reactant | trans-N-[3-(3-pyridyl)cyclohexyl]phthalimide | 9.79 mmol, 3.00 g | N1=CC(=CC=C1)[C@@H]1C[C@H](CCC1)N1C(C=2C(C1=O)=CC=CC2)=O | C19H18N2O2
solvent | EtOH | 40 mL | CCO | C2H6O
product | trans-3-(3-pyridyl)cyclohexylamine | 1.08 g, 60% | N1=CC(=CC=C1)[C@@H]1C[C@H](CCC1)N | C11H16N2
